US07989444B2
Preparation 64: 1,1-dimethylethyl 7-hydroxy-6-methyl-1,2,4,5-tetrahydro-3H-3-benzazepine-3-carboxylate
Di-tert-butyl dicarbonate (11.2 g, 1.35 eq) was added to a stirred solution of the crude 7-hydroxy-6-methyl-1,2,4,5-tetrahydro-3H-3-benzazepine hydrobromide and triethylamine (12.7 ml, 2.4 eq) in THF (200 ml) at room temperature. After 3 hours the solvent was evaporated and the residue was dissolved in ethyl ether and 5% citric acid; the organic phase was separated, washed with sat. NaCl, dried (Na2SO4) and concentrated. The residue was purified on silica gel (ethyl acetate/petroleum ether: 2/8) obtaining the desired product (9.0 g, 86% yield).

reactant | Di-tert-butyl dicarbonate | 11.2 g, 1.35 eq | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | 7-hydroxy-6-methyl-1,2,4,5-tetrahydro-3H-3-benzazepine hydrobromide | Br.OC1=C(C2=C(CCNCC2)C=C1)C
reactant | triethylamine | 12.7 ml, 2.4 eq | C(C)N(CC)CC | C6H15N
solvent | THF | 200 ml | C1CCOC1 | C4H8O
product | 1,1-dimethylethyl 7-hydroxy-6-methyl-1,2,4,5-tetrahydro-3H-3-benzazepine-3-carboxylate | 9.0 g, 86% yield | OC1=C(C2=C(CCN(CC2)C(=O)OC(C)(C)C)C=C1)C | C16H23NO3
